US07842696B2
Ethereal HCl (30 mL) was added to piperazin-1-yl-(2-trifluoromethyl-phenyl)-methanone (5.5 g, 21.40 mmol) and the resulting mixture was stirred at 0° C. for 30 minutes. The ether was then evaporated to afford 5.7 g (91% yield) of piperazin-1-yl-(2-trifluoromethyl-phenyl)-methanone hydrochloride.

reactant | piperazin-1-yl-(2-trifluoromethyl-phenyl)-methanone | 21.40 mmol, 5.5 g | N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C12H13F3N2O
reactant | HCl | 30 mL | Cl | ClH
product | piperazin-1-yl-(2-trifluoromethyl-phenyl)-methanone hydrochloride | 5.7 g, 91% yield | Cl.N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | InChI=1S/C12H13F3N2O.ClH/c13-12(14,15)10-4-2-1-3-9(10)11(18)17-7-5-16-6-8-17;/h1-4,16H,5-8H2;1H
